US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[3-[4-(N,N-dimethylamino)piperidin-1-yl]propyl]-1H-indole (Example 41).
Under a nitrogen atmosphere around bottom flask is charged with 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-[[4-(dimethylamino)piperidin-1-yl]carbonyl]ethyl]-1H-indole (0.194 g, 0.428 mmol). The flask was then placed in an ice bath and boranetetrahydrofuran complex (1.71 ml of a 1.0 M solution in THF, 1.71 mmol) was added. The reaction mixture was then removed from the ice bath and stirred at room temperature for about 90 minutes. The progress of the reaction was monitored by thin layer chromatography. A 1:1 tetrahydrofuran:methanol solution (0.20 ml total) was added, followed by the addition of 2.0 ml of 5.0 N sodium hydroxide.

reactant | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-[[4-(dimethylamino)piperidin-1-yl]carbonyl]ethyl]-1H-indole | 0.428 mmol, 0.194 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2CCC(=O)N2CCC(CC2)N(C)C)C)C=C1 | C26H32ClN3O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[3-[4-(N,N-dimethylamino)piperidin-1-yl]propyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2CCCN2CCC(CC2)N(C)C)C)C=C1 | C26H34ClN3O
